US04316893
Preparation of 1-n-Butylazacyclononan-2-one having the formula
Following example 10, 16.32 g of 50% sodium hydride-mineral oil dispersion (8.16 g NaH, 0.34 M), 40 g (0.283 M) of azacyclononan-2-one and 43 g (0.311 M) of 1-bromobutane was refluxed for 22 hours. The reaction mixture was diluted with benzene-tolune and was extracted with water. The organic phase was separated, dried and concentrated to a yellow oil. Distillation afforded 41.4 g (74%) of product; b.p. 166°-170°/0.2 mm.

reactant | sodium hydride | 16.32 g | [H-].[Na+]
reactant | NaH | 8.16 g | [H-].[Na+]
reactant | azacyclononan-2-one | 0.283 M, 40 g | N1C(CCCCCCC1)=O | C8H15NO
reactant | 1-bromobutane | 0.311 M, 43 g | BrCCCC | C4H9Br
product | 1-n-Butylazacyclononan-2-one | 41.4 g, 74% | C(CCC)N1C(CCCCCCC1)=O | C12H23NO
